2152-10-11 06:15:00 Physician Resident Progress Note
24 Hour Events:
   -Transferred from SICU
   -Fever to 100.8 --> blood and urine cultures; already on abx
   -10 mg Furosemide drip with goal of net neg >100 mL/ hr
   -Received dilt and lopressor.  HRs in 70s.  Did not require esmolol
   drip
   -Restless --> 2mg morphine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-10-11**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tc 98.8
   Tm 100.8
   BP 141/61 (123/71- 172/89)
   HR _________
   SaO2 91% (91-99%)
                  Total In:
                  984 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                     1.5 L
   Urine:
                                                              00:00   -133
                                                             01:00     -93
                                                              02:00   -170
                                                              03:00   -210
                                                             04:00     -70
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   9.4 g/dL
   138 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.1 mEq/L
   29 mg/dL
   106 mEq/L
   145 mEq/L
   27.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2152-10-6**]  02:15 PM
                             [**2152-10-6**]  02:19 PM
                             [**2152-10-7**]  03:08 AM
                             [**2152-10-7**]  03:20 AM
                             [**2152-10-8**]  01:50 AM
                             [**2152-10-8**]  02:05 AM
                             [**2152-10-9**]  01:03 AM
                             [**2152-10-9**]  11:02 AM
                             [**2152-10-10**]  02:43 AM
                             [**2152-10-11**]  01:51 AM
   WBC
   8.9
   10.7
   15.9
   16.2
   15.7
   13.8
   Hct
   28.0
   27.6
   26.2
   27.1
   26.3
   27.6
   Plt
   150
   154
   166
   196
   193
   273
   Cr
   0.6
   0.7
   0.7
   0.8
   0.8
   TropT
   0.06
   TCO2
   24
   26
   24
   25
   Glucose
   98
   142
   161
   179
   138
   Other labs: PT / PTT / INR:13.9/31.9/1.2, CK / CKMB /
   Troponin-T:71/5/0.06, Differential-Neuts:88.8 %, Lymph:5.1 %, Mono:5.2
   %, Eos:0.8 %, Lactic Acid:0.8 mmol/L, Albumin:3.6 g/dL, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4781**] is an 87 year old woman now s/p left craniotomy for a
   traumatic subdural hematoma whose post-operative course is now
   complicated by decompensated CHF, atrial fibrillation with RVR, and
   fevers likely from aspiration/hospital-acquired pneumonia.
   .
   Plan:
   ## Respiratory failure: multifactorial from pulmonary
   edema/acute-on-chronic CHF (?systolic vs diastolic) and likely
   aspiration/hospital-acquired pneumonia; net positive 5 L for length of
   stay
   - check TTE for assessment of underlying function
   - BNP > 70,000
   - Check cardiac enzymes
   - Furosemide drip for net negative 100 cc/hr
   - change labetalol to short-acting metoprolol and change diltiazem XR
   to short-acting diltiazem for better rate control to aid in diuresis
   - empiric vancomycin and piperacillin/tazobactam for
   hospital-acquired/aspiration pneumonia; check cultures and random vanco
   level
   - d/c alpha-blocker given that this can worsen CHF
   - cont valsartan, lisinopril for afterload reduction
   .
   ## Fevers: likely due to aspiration pneumonia; UA and blood cultures
   negative to date
   - attempt to obtain sputum culture
   - chest PT
   - followup pending micro data
   - consider checking C Diff toxin if develops diarrhea
   - if fevers persist, consider changing phenytoin to levetiracetam
   .
   ## Hypernatremia: lkikely from poor free water intake and ongoing
   fevers
   - incresae free H2O boluses with tube feeds to 150 cc q6h
   .
   ## Hyperglycemia: unclear if she has baseline glucose intolerance, or
   if this is from acute illness; has required significant sliding scale
   insulin
   - add glargine 6 units qhs with q6h sliding scale
   .
   ## Hypertension: goal SBP<160 given head bleed
   - cont lisinopril, valsartan as above; change diltiazem and beta
   blocker as above
   - d/c terazosin as above
   .
   ## Atrial fibrillation: rate poorly-controlled, though this may be due
   in part to ongoing infectious process
   - change rate control agents as above
   - cont to hold anticoagulation given her highly-morbid intracranial
   bleed
   .
   ## Subdural hematoma: on phenytoin for seizure prophylaxis; follow
   NSurg recs
   .
   ## FEN: tube feeds; increase free H2O flushes to 150 cc q6h
   ## Prophylaxis: SC heparin for DVT prophylaxis; H2-blocker for stress
   ulcer
   ## Access: PIVs
   ## Communication: with daughter/POA [**Name (NI) 536**] [**Name (NI) 4782**] (cell [**0-0-**])
   ## Code: DNR/DNI
   ## Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2152-10-13 06:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   good UOP to lasix
   no overnight events
   NSGY: needs f/u CT in 4 weeks and appt with dr. [**First Name (STitle) 39**] after CT.
   Removed staples this am. Cte dilantin until f/u CT.
   S: Smiling and up in chair.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-10-13**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tm 99 Tc 96.4
   HR 68-115 AF
   BP 130/47 (130/47-165/88)
   RR 18-27
   O2sat: 96-100%  face mask
               Total In:
                                                                      3544
                                                                       784
   PO:
                                                                       690
                                                                        60
   TF:
                                                                      1440
                                                                       480
   IVF:
                                                                      1396
                                                                       244
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
                                                                      4240
                                                                      1180
   NG:
   Stool:
   LOS balance:
                                                                     +2445
   Balance:
                                                                    -696mL
                                                                   -396 mL
   Respiratory support
   ABG: ///34/
   Physical Examination
   GEN: sitting up in NAD
   HEENT: Staples out. Incision no erythema or discharge
   LUNGS: crackles at bases
   HEART: Irreg irreg with dynamic PMI at mid axillary line
   ABD: soft. NT/ND
   NEURO: Opens eyes to name. Does not follow commands.
   Labs / Radiology
   369 K/uL
   9.8 g/dL
   103 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.7 mEq/L
   31 mg/dL
   96 mEq/L
   138 mEq/L
   29.0 %
   14.8 K/uL
        [image002.jpg]
                             [**2152-10-8**]  01:50 AM
                             [**2152-10-8**]  02:05 AM
                             [**2152-10-9**]  01:03 AM
                             [**2152-10-9**]  11:02 AM
                             [**2152-10-10**]  02:43 AM
                             [**2152-10-11**]  01:51 AM
                             [**2152-10-11**]  01:42 PM
                             [**2152-10-12**]  02:15 AM
                             [**2152-10-12**]  01:50 PM
                             [**2152-10-13**]  02:44 AM
   WBC
   15.9
   16.2
   15.7
   13.8
   13.2
   14.8
   Hct
   26.2
   27.1
   26.3
   27.6
   27.6
   29.0
   Plt
   166
   196
   193
   273
   286
   369
   Cr
   0.7
   0.7
   0.8
   0.8
   0.9
   0.9
   0.8
   0.9
   TropT
   0.06
   TCO2
   24
   25
   Glucose
   142
   161
   179
   138
   133
   120
   139
   103
   Other labs: PT / PTT / INR:13.8/35.9/1.2, CK / CKMB /
   Troponin-T:71/5/0.06, ALT / AST:30/27, Alk Phos / T Bili:106/0.8,
   Differential-Neuts:88.8 %, Lymph:5.1 %, Mono:5.2 %, Eos:0.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:306 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   CXR: Slight improvement from yesterday.
   Assessment and Plan
   Ms. [**Known lastname 4781**] is an 87 year old woman now s/p left craniotomy for a
   traumatic subdural hematoma whose post-operative course is now
   complicated by decompensated CHF, atrial fibrillation with RVR, and
   fevers likely from aspiration/hospital-acquired pneumonia.
   .
   Plan:
   ## Respiratory failure: multifactorial from pulmonary
   edema/acute-on-chronic CHF (?systolic vs diastolic) and likely
   aspiration/hospital-acquired pneumonia; net positive 5 L for length of
   stay. TTE with diastolic failure
   - BNP > 70,000
   - cardiac enzymes NL
   - FWill d/dc lasix drip start IV with goal -100/hr
   - changed labetalol to short-acting metoprolol and changed diltiazem XR
   to short-acting diltiazem for better rate control to aid in diuresis
   - empiric vancomycin and piperacillin/tazobactam for
   hospital-acquired/aspiration pneumonia; check cultures and random vanco
   level. Plan to D/C on [**2152-10-15**] after 7 days of treatment given negative
   cultures
   - d/c alpha-blocker given that this can worsen CHF
   - cont valsartan, lisinopril for afterload reduction
   .
   ## Fevers: likely due to aspiration pneumonia; UA and blood cultures
   negative to date
   - chest PT
   - empiric vancomycin and piperacillin/tazobactam for
   hospital-acquired/aspiration pneumonia; check cultures and random vanco
   level. Plan to D/C on [**2152-10-15**] after 7 days of treatment given negative
   cultures
   - if fevers persist, consider changing phenytoin to levetiracetam
   .
   ## Hyperglycemia: unclear if she has baseline glucose intolerance, or
   if this is from acute illness; has required significant sliding scale
   insulin
   -          glargine 6 units qhs with q6h sliding scale
   -          Now stable
   .
   ## Atrial fibrillation: rate poorly-controlled, though this may be due
   in part to ongoing infectious process
   - Increased lopressor to 100mg Q6H for better rate control and
   hopefully better BP control
   - cont to hold anticoagulation given her highly-morbid intracranial
   bleed
   .
   ## Subdural hematoma: on phenytoin for seizure prophylaxis; follow
   NSurg recs
   .
   ## FEN: tube feeds; increase free H2O flushes to 150 cc q6h
   ## Prophylaxis: SC heparin for DVT prophylaxis; H2-blocker for stress
   ulcer
   ## Access: PIVs
   ## Communication: with daughter/POA [**Name (NI) 536**] [**Name (NI) 4782**] (cell [**0-0-**])
   ## Code: DNR/DNI
   ## Dispo: [**Month (only) 60**] be able to transfer to floor today if UOP good after IV
   lasix off lasix drip
   ICU Care
   Nutrition: TF
   Glycemic Control:  6units glargine + ISS
   Lines:
   Prophylaxis:
   DVT:  boots SC heparin
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition: To floor pending UOP on IV lasix

2152-10-14 07:03:00 Physician Resident Progress Note
24 Hour Events:
   -Changed lasix drip to IV bolus but urine output kept falling so
   switched back to gtt.  However, can most likely be transitioned back to
   bolus today.
   -Call out to floor today.
   -Clinically, breathing better.  At one point, pulled off NRB and
   maintained her sats
   -Wt at 61 kg, down from 65.5 on [**10-9**]
   -Net neg 366 in last 24 hrs; prev 24 hrs was net neg __ (? 700 ml)
   -Talked to daughter re [**Name2 (NI) 1008**]
   -S/p fall onto right hip on [**10-6**].  Orig xray was read as neg for
   fracture.  PT was concerned that right hip was deformed.  Large bruise
   of lateral right hip with possible deformity when compared to left
   side.  Follow up CT scan
   -Phenytoin level decr to 4.4 (6.1 recalc for albumin)
   -Nurses noticed periods of apnea o/n. Patient just did not breathe.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-10-14**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tm: 100.5
   Tc: 96.4
   HR: 75 (71-94)
   BP: 132/58 (110/48-151/78)
   RR: 20 (15-23)
   SaO2: 100% (94-100%)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
                                                                      3280
                                                                       655
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -366 mL
                                                                   +251 mL
   Respiratory support
   ABG: ///34/
   Physical Examination
   GEN: NAD. Lying in bed with mask on.
   HEENT: Staples out. Small pocket of fluctulence underneath incision
   site. No discharge.
   LUNGS: CTAB anteriorly
   HEART: Irreg irreg with dynamic PMI.
   ABD: soft. Nt/ND.
   EXTREM: No edema. No sacral edema.
   NEURO: Opens eyes to name. Smiles. Withdraws to pain.
   Labs / Radiology
   423 K/uL
   10.3 g/dL
   144 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.6 mEq/L
   31 mg/dL
   92 mEq/L
   136 mEq/L
   30.4 %
   18.4 K/uL
         [image002.jpg]
                             [**2152-10-9**]  01:03 AM
                             [**2152-10-9**]  11:02 AM
                             [**2152-10-10**]  02:43 AM
                             [**2152-10-11**]  01:51 AM
                             [**2152-10-11**]  01:42 PM
                             [**2152-10-12**]  02:15 AM
                             [**2152-10-12**]  01:50 PM
                             [**2152-10-13**]  02:44 AM
                             [**2152-10-13**]  03:19 PM
                             [**2152-10-14**]  04:27 AM
   WBC
   16.2
   15.7
   13.8
   13.2
   14.8
   18.4
   Hct
   27.1
   26.3
   27.6
   27.6
   29.0
   30.4
   Plt
   196
   193
   273
   286
   369
   423
   Cr
   0.7
   0.8
   0.8
   0.9
   0.9
   0.8
   0.9
   0.8
   0.8
   TropT
   0.06
   TCO2
   25
   Glucose
   161
   179
   138
   133
   120
   139
   103
   117
   144
   Other labs: PT / PTT / INR:13.6/32.5/1.2, CK / CKMB /
   Troponin-T:71/5/0.06, ALT / AST:36/43, Alk Phos / T Bili:106/0.8,
   Differential-Neuts:88.8 %, Lymph:5.1 %, Mono:5.2 %, Eos:0.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:306 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4781**] is an 87 year old woman now s/p left craniotomy for a
   traumatic subdural hematoma whose post-operative course is now
   complicated by decompensated CHF, atrial fibrillation with RVR, and
   fevers likely from aspiration/hospital-acquired pneumonia.
   Plan:
   ## Respiratory failure: multifactorial from pulmonary
   edema/acute-on-chronic CHF (?systolic vs diastolic) and likely
   aspiration/hospital-acquired pneumonia; net positive 5 L for length of
   stay. TTE with diastolic failure. Pt appears clinically and by CXR
   euvolemic.
      A. CHF:
   - BNP > 70,000
   - cardiac enzymes NL
   - Will d/dc lasix drip start IV with goal -500mL/day as patient
   euvolemic currently.
   - changed labetalol to short-acting metoprolol and changed diltiazem XR
   to short-acting diltiazem for better rate control to aid in diuresis
   - d/c alpha-blocker given that this can worsen CHF
   - cont valsartan, lisinopril for afterload reduction
       B. HAP
   - empiric vancomycin and piperacillin/tazobactam for
   hospital-acquired/aspiration pneumonia; check cultures and random vanco
   level. Plan to D/C on [**2152-10-15**] after 7 days of treatment given negative
   cultures
      C. Apnea: Concerned for central cause esp if has re-bleed vs
   hypocapnea.
   - Will check ABG
   -Will check head CT for re-bleed
   ## Fevers and leukocytosis: Low grade only but has rising WBCslikely
   due to aspiration pneumonia; UA and blood cultures negative to date.
   - Will check differential and re-culture today including C.Diff.
   - If WBCs trend up or she has more fevers today will consider starting
   empiric C.Diff treatment.
   - chest PT
   - empiric vancomycin and piperacillin/tazobactam for
   hospital-acquired/aspiration pneumonia; check cultures and random vanco
   level. Plan to D/C on [**2152-10-15**] after 7 days of treatment given negative
   cultures
   - if fevers persist, consider changing phenytoin to levetiracetam
   ## ?Hip fracture:
   - Will get CT hip today to assess.
   ## Hyperglycemia: unclear if she has baseline glucose intolerance, or
   if this is from acute illness; has required significant sliding scale
   insulin
   -          glargine 6 units qhs with q6h sliding scale
   -          Now stable
   ## Atrial fibrillation: rate poorly-controlled, though this may be due
   in part to ongoing infectious process
   - Increased lopressor to 100mg Q6H for better rate control and
   hopefully better BP control. Only has received 3 doses lopressor today
   so will hold off adding another anti-hypertensive (She
s on Norvasc at
   home) until she has reached steady state.
   - cont to hold anticoagulation given her highly-morbid intracranial
   bleed
   ## Subdural hematoma: on phenytoin for seizure prophylaxis; follow
   NSurg recs. Will re-dose phenytoin today as has been low for several
   days.
   ## FEN: tube feeds; increase free H2O flushes to 150 cc q6h
   ## Prophylaxis: SC heparin for DVT prophylaxis; H2-blocker for stress
   ulcer
   ## Access: PIVs
   ## Communication: with daughter/POA [**Name (NI) 536**] [**Name (NI) 4782**] (cell [**0-0-**])
   ## Code: DNR/DNI
   ## Dispo: [**Month (only) 60**] be able to transfer to floor today if UOP good after IV
   lasix off lasix drip